US07276624B2
Pentafluorophenol (7.5 g, 0.040 mole) and triethylamine (4.5 g, 0.044 mole) in dry ethyl ether (7 ml) are added gradually to CH2═C(CF3)CF2OSO2F (11 g, 0.045 mole) in ethyl ether (14 ml) at 20° C. The reaction mixture is agitated at 20° C. for 30 minutes and washed in turn with water, dilute aqueous HCl, water, sodium bicarbonate solution, and water and the resulting ether solution is dried over MgSO4. Distillation of the dried mixture gives CH2═C(CF3)CF2OC6F5 (9.8 g, 73% yield, b.pt. 86–88° C. at 20 mm Hg).

reactant | Pentafluorophenol | 0.040 mole, 7.5 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | triethylamine | 0.044 mole, 4.5 g | C(C)N(CC)CC | C6H15N
reactant | CH2═C(CF3)CF2OSO2F | 0.045 mole, 11 g | C=C(C(F)(F)F)C(F)(F)OS(=O)(=O)F | C4H2F6O3S
solvent | ethyl ether | 7 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 14 ml | C(C)OCC | C4H10O
product | CH2═C(CF3)CF2OC6F5 | 9.8 g, 73% yield | C=C(C(F)(F)F)C(F)(F)OC1=C(F)C(F)=C(F)C(F)=C1F | C10H2F10O
